US04440779
Step 3: Preparation of Ethyl 4-(m-chlorophenylthio)methyl-5-hydroxycarbonyl-1-methyl-α-oxo-pyrrole-2-acetate
4-(m-Chlorophenylthio)methyl-5-hydroxycarbonyl-1-methyl-α-oxopyrrole-2-acetic acid (1.0 g, 2.82 mmol) is dissolved in hot ethanol (7 ml) and concentrated HCl (150 μl) is added. The reaction is heated to reflux for 30 minutes, then the mixture is cooled, the solvent is removed in vacuo to give a red oill whih solidifies on standing. The solid is recrystallized from cyclohexane:chloroform to give 395 mg purple solid, i.e. ethyl 4-(m-chlorophenylthio)methyl-5-hydroxycarbonyl-1-methyl-α-oxo-pyrrole-2-acetate (36%).

reactant | 4-(m-Chlorophenylthio)methyl-5-hydroxycarbonyl-1-methyl-α-oxopyrrole-2-acetic acid | 2.82 mmol, 1.0 g | ClC=1C=C(C=CC1)SCC=1C=C(N(C1C(=O)O)C)C(C(=O)O)=O | C15H12ClNO5S
reactant | HCl | 150 μl | Cl | ClH
reactant | ethanol | 7 ml | C(C)O | C2H6O
product | Ethyl 4-(m-chlorophenylthio)methyl-5-hydroxycarbonyl-1-methyl-α-oxo-pyrrole-2-acetate | 395 mg | ClC=1C=C(C=CC1)SCC=1C=C(N(C1C(=O)O)C)C(C(=O)OCC)=O | C17H16ClNO5S
